US04436746
A mixture of 1-(5-methoxycarbonylpentyl)-2-(1-imidazolyl)-3-methylindole (1.80 g) and 30 ml of 3 N NaOH is stirred at room temperature for 1.3 hours. The resulting clear, yellow solution is neutralized to pH 6 with 2 N HCl. The resulting suspension is extracted with ethyl acetate (2×50 ml). The organic extract is washed with a saturated NaCl solution (1×25 ml), dried (MgSO4), filtered, and concentrated in vacuo to give a cream-colored solid. The solid is dissolved in ethanol and the solution treated with 0.6 ml of 6.5 N HCl in ethanol. The solution is diluted with diethyl ether and after standing for several hours the precipitate whch forms is collected by filtration to give 1-(5-carboxypentyl)-2-(1-imidazolyl)-3-methylindole hydrochloride, m.p. 177.5°-180.5° dec.

reactant | 1-(5-methoxycarbonylpentyl)-2-(1-imidazolyl)-3-methylindole | 1.80 g | COC(=O)CCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C19H23N3O2
reactant | NaOH | 3 N, 30 ml | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
reactant | HCl | 6.5 N, 0.6 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(5-carboxypentyl)-2-(1-imidazolyl)-3-methylindole hydrochloride | Cl.C(=O)(O)CCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | InChI=1S/C18H21N3O2.ClH/c1-14-15-7-4-5-8-16(15)21(11-6-2-3-9-17(22)23)18(14)20-12-10-19-13-20;/h4-5,7-8,10,12-13H,2-3,6,9,11H2,1H3,(H,22,23);1H
